US04486588
Under a dry nitrogen atmosphere a solution of commercial ethyl 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylate (19.6 g, 0.1 mole) in toluene (20 ml) was added dropwise to a stirred solution of 4-(2-phenylethenyl)morpholine (14.3 g, 0.076 mole) in toluene (200 ml). Preparation of the morpholine derivative is described in U.S. Pat. No. 3,922,237. After the addition, the reaction mixture was heated at reflux for approximately 20 hours. The reaction mixture was then cooled and concentrated under reduced pressure, leaving a residue. The residue was heated at 170° under a dry nitrogen atmosphere for 3.5 hours, allowed to cool to room temperature, and then filtered. The filtrate was purified by column chromatography on silica gel, elution first with n-hexane: ethyl acetate, and finally ethyl acetate, to give ethyl 2,4-dimethyl-[1,1'-biphenyl]-3-carboxylate (3.5 g) as a yellow oil.

reactant | ethyl 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylate | 0.1 mole, 19.6 g | CC1=CC(OC(=C1C(=O)OCC)C)=O | C10H12O4
reactant | 4-(2-phenylethenyl)morpholine | 0.076 mole, 14.3 g | C1(=CC=CC=C1)C=CN1CCOCC1 | C12H15NO
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2,4-dimethyl-[1,1'-biphenyl]-3-carboxylate | 3.5 g | CC1=C(C=CC(=C1C(=O)OCC)C)C1=CC=CC=C1 | C17H18O2
